US07977331B1
To a solution of methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-3-cyclohexyl-1H-indole-6-carboxylate (140 mg, 0.331 mmol) and 1-bromo-3-chloropropane (156 mg, 0.994 mmol) in N,N-dimethylformamide (4 ml) was added sodium hydride (17 mg, 0.430 mmol) under ice-cooling, and the mixture was stirred for 2 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to give methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-1-(3-chloropropyl)-3-cyclohexyl-1H-indole-6-carboxylate (167 mg, yield 100%).

reactant | methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-3-cyclohexyl-1H-indole-6-carboxylate | 0.331 mmol, 140 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C25H30N2O4
reactant | 1-bromo-3-chloropropane | 0.994 mmol, 156 mg | BrCCCCl | C3H6BrCl
reactant | sodium hydride | 0.430 mmol, 17 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-1-(3-chloropropyl)-3-cyclohexyl-1H-indole-6-carboxylate | 167 mg, yield 100% | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCCCl | C28H35ClN2O4
